US09416111B2
A mixture of methyl trans-4-[1-(5-chloropyrimidin-2-yl)ethenyl]cyclohexanecarboxylate (8 mg, 0.028 mmol), 4-(difluoromethyl)-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine (10.3 mg, 0.028 mmol), tris(dibenzylideneacetone)-dipalladium(0) (1.3 mg, 1.42 μmol), XPhos (1.36 mg, 2.85 μmol) and potassium phosphate tribasic (18 mg, 0.085 mmol) in 1,4-dioxane (2 mL) and water (0.5 mL) was stirred at 110° C. under a nitrogen atmosphere for 3 hours. After cooling to room temperature, the mixture was diluted with brine and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/petroleum ether) to afford methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}cyclohexanecarboxylate. MS ESI calc'd for C26H28F2N5O2 [M+H]+ 480. found 480. 1H NMR: (400 MHz, CDCl3) δ 8.94 (s, 2H), 8.72 (d, J=4.8 Hz, 1H), 8.62 (d, J=5.2 Hz, 1H), 7.88 (s, 1H), 7.37 (s, 1H), 7.13-7.11 (m, 1H), 7.04-7.03 (m, 1H), 6.43 (s, 1H), 5.48 (s, 1H), 3.69 (s, 3H), 3.09-3.06 (m, 1H), 2.46 (s, 3H), 2.05-2.02 (m, 3H), 1.69-1.62 (m, 3H), 1.39-1.33 (m, 3H).

reactant | methyl trans-4-[1-(5-chloropyrimidin-2-yl)ethenyl]cyclohexanecarboxylate | 0.028 mmol, 8 mg | ClC=1C=NC(=NC1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H17ClN2O2
reactant | 4-(difluoromethyl)-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | 0.028 mmol, 10.3 mg | FC(C1=NC(=NC=C1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)F | C18H22BF2N3O2
reactant | XPhos | 2.85 μmol, 1.36 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium phosphate tribasic | 0.085 mmol, 18 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 1.42 μmol, 1.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}cyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OC)F | C26H27F2N5O2
